US09340527B2
Piperidine-2-carboxylic acid (0.125 g, 0.967 mmol) as HCl salt was combined with 6-(4-tert-Butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde (0.250 g, 0.805 mmol) in 1,2-dichloroethane (5 mL, 60 mmol) and acetic acid (0.500 mL, 8.79 mmol). The mixture was heated to reflux while stirring overnight. Reaction cooled to room temperature and then sodium triacetoxyborohydride (546 mg, 2.58 mmol) was added in small portions. The reaction was then left stirring overnight. Reaction was then purified directly via reverse phase chromatography (5-95% CH3CN/Water (0.1% TFA), C18, 150 mm). The product was then lyophilized to dryness to give 3 mg 1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-piperidine-2-carboxylic acid as a yellow solid (0.8%). ESI-LCMS (424 M+H). 1H NMR (DMSO-d6, 400 MHz): δ (ppm) 12.34-12.58 (m, 1H), 11.20-11.53 (m, 1H), 8.01 (s, 1H), 7.68-7.93 (m, 3H), 7.41 (s, 1H), 7.02-7.22 (m, 1H), 4.35 (br. s., 3H), 3.23-3.43 (m, 2H), 2.86-3.09 (m, 2H), 1.74-2.30 (m, 8H), 1.00-1.52 (m, 5H), 0.87 (s, 9H)

reactant | Piperidine-2-carboxylic acid | 0.967 mmol, 0.125 g | N1C(CCCC1)C(=O)O | C6H11NO2
reactant | HCl | Cl | ClH
reactant | 6-(4-tert-Butyl-cyclohexyloxy)-naphthalene-2-carbaldehyde | 0.805 mmol, 0.250 g | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)C=O | C21H26O2
reactant | 1,2-dichloroethane | 60 mmol, 5 mL | ClCCCl | C2H4Cl2
reactant | acetic acid | 8.79 mmol, 0.500 mL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 2.58 mmol, 546 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1-[6-(4-tert-Butyl-cyclohexyloxy)-naphthalen-2-ylmethyl]-piperidine-2-carboxylic acid | 3 mg, 0.8% | C(C)(C)(C)C1CCC(CC1)OC=1C=C2C=CC(=CC2=CC1)CN1C(CCCC1)C(=O)O | C27H37NO3
